US06355636B1
4-Hydroxy-6-(3-morpholin-4-yl-propoxy)-[1.5]naphthyridine-3-carbonitrile
A solution of 2-cyano-3-[6-(3-morpholin-4-yl-propoxy)-pyridin-3-ylamino]-acrylic acid ethyl ester (10 g) in Dowtherm (200 ml) was heated at 260° C. (internal temperature) under argon. During the first 8 hrs of heating, ethanol was removed through distillation head attached to apparatus. Then, the reaction mixture was heated at 260° C. for an additional 5 hrs. After cooling, the mixture was poured into hexanes. The solid was collected, and suspended in a mixture of CH2Cl2 and MeOH (ca 5:1). The black undissolved solid was removed, and the filtrate was diluted with ether. The yellowish brown solid was precipitated, collected, and dried to give the title compound mass spectrum (electrospray, m/e): 315.0 (M+H); IR cm-1: 2227, 1666, 1630; H-NMR δ(DMSO-d6): 1.88-1.90 (2H, m), 2.26-2.29 (6H, m), 2.51 (2H, m), 3.49 (2H,m), 4.34 (2H, m), 6.852 (1H, d, C7-H), 8.147 (1H, d, C8-H) 8.715 (1H, s, C2-H), 11.2 (1H, bs, OH).

reactant | 2-cyano-3-[6-(3-morpholin-4-yl-propoxy)-pyridin-3-ylamino]-acrylic acid ethyl ester | 10 g | C(C)OC(C(=CNC=1C=NC(=CC1)OCCCN1CCOCC1)C#N)=O | C18H24N4O4
solvent | Dowtherm | 200 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 4-Hydroxy-6-(3-morpholin-4-yl-propoxy)-[1.5]naphthyridine-3-carbonitrile | OC1=C(C=NC2=CC=C(N=C12)OCCCN1CCOCC1)C#N | C16H18N4O3
